US07923450B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(3-methoxy-phenyl)-4-propyl-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (100 mg, 0.38 mmol) and of crude 6-bromo-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone (126 mg, 0.39 mmol) in ethanol (5 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (5 mg, 3%) as a yellow solid. MS ISP (m/e): 489.3 (100) [(M+H)−]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.64 (s, 1H), 7.58 (d, 1H), 7.12-7.19 (m, 2H), 6.68-6.89 (m, 5H), 3.76 (s, 6H), 2.67 (m, 2H), 2.29 (s, 3H), 1.05-2.16 (m, 8H), 0.89 (t, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.38 mmol, 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone | 0.39 mmol, 126 mg | BrC1CCCC(C1=O)(CCC)C1=CC(=CC=C1)OC | C16H21BrO2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(3-methoxy-phenyl)-4-propyl-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine | 5 mg, 3% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)(CCC)C2=CC(=CC=C2)OC | C28H32N4O2S
